### PR TITLE
[Merged by Bors] - feat: Results about `Countable` and `CountableOrCountablyGenerated` for products

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
- Add results about `Countable`: `countable_left_of_prod_of_nonempty`, `countable_right_of_prod_of_nonempty` and the instance `instCountableProd_1`.
- Add results about `CountableOrCountablyGenerated`: `countableOrCountablyGenerated_left_of_prod_left_of_nonempty`, `countableOrCountablyGenerated_right_of_prod_left_of_nonempty` and the instances `instCountableOrCountablyGeneratedProd`, `instCountableOrCountablyGeneratedProd_1`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Countable/Basic.lean [hunk 1]
```diff
@@ -84,6 +84,18 @@ instance [Nonempty α] [Uncountable β] : Uncountable (α × β) := by
...
+  contrapose h
+  rw [not_countable_iff] at *
+  infer_instance
+
+lemma countable_right_of_prod_of_nonempty [Nonempty α] (h : Countable (α × β)) : Countable β := by
+  contrapose h
+  rw [not_countable_iff] at *
+  infer_instance
+
+instance [Countable (α × β)] : Countable (β × α) := Countable.of_equiv _ (Equiv.prodComm α β)
```
Comment (sgouezel) [inline Mathlib/Data/Countable/Basic.lean:97]: Do you need this instance for an application? Instances should not be added lightly, as they are one of the main performance bottlenecks in Mathlib. Otherwise, maybe make it a lemma?

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 2]
```diff
@@ -502,20 +502,45 @@ lemma measurableSet_countablePartitionSet (n : ℕ) (a : α) :
...
+
+lemma countableOrCountablyGenerated_right_of_prod_left_of_nonempty [Nonempty α]
+    [h : CountableOrCountablyGenerated (α × β) γ] :
+    CountableOrCountablyGenerated β γ := by
+  rcases h.countableOrCountablyGenerated with (h | h)
+  · have := countable_right_of_prod_of_nonempty h
+    infer_instance
+  · infer_instance
+
+instance [h : CountableOrCountablyGenerated (α × β) γ] :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:538]: ditto

File: Mathlib/Data/Countable/Basic.lean (hunk 1 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Data/Countable/Basic.lean:97]: Let's make it a lemma, yeah

**Comment by RemyDegenne** [comment]
Can you fix the build? I mark this as awaiting-author for now.

**Comment by kim-em** [comment]
bors merge
